US07659268B2
3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)benzoic acid (200 mg, 0.442 mmol) and methanesulfonamide (46.4 mg, 0.488 mmol) were dissolved in dichloromethane (2 mL) containing triethylamine (0.247 mL, 1.76 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′-tetramethyluronium hexafluorophosphate (HATU, 185 mg, 0.487 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified on 12 g of silica gel utilizing a gradient of 0-100% ethyl acetate in hexanes to yield 3-(6-(1-(2,2-difluorobenzo[d][1,3]-dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-N-(methylsulfonyl)-benzamide (71 mg, 30%) as a white solid. ESI-MS m/z calc. 529.1, found 529.9 (M+1)+Retention time 1.83 minutes. 1H NMR (400 MHz, CD3CN) δ 9.57 (s, 1H), 8.01 (d, J=8.4 Hz, 1H), 7.91-7.87 (m, 1H), 7.75 (s, 1H), 7.68-7.66 (m, 2H), 7.58-7.53 (m, 1H), 7.36-7.32 (m, 2H), 7.21 (d, J=8.2 Hz, 1H), 3.30 (s, 3H), 2.25 (s, 3H), 1.63-1.58 (m, 2H), 1.20-1.16 (m, 2H).

reactant | 3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)benzoic acid | 0.442 mmol, 200 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C(=O)O)C=CC2)C)F | C24H18F2N2O5
reactant | methanesulfonamide | 0.488 mmol, 46.4 mg | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 1.76 mmol, 0.247 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(6-(1-(2,2-difluorobenzo[d][1,3]-dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-N-(methylsulfonyl)-benzamide | 71 mg, 30% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C(=O)NS(=O)(=O)C)C=CC2)C)F | C25H21F2N3O6S
